US08912169B2
Step 8: Synthesis of ethyl 2-(trans-4-(2,2,11,11-tetramethyl-4,9-dioxo-3,10-dioxa-5,8-diazadodecan-6-yl)cyclohexyl)acetate
A mixture of ethyl 2-(trans-4-(2-amino-1-(tert-butoxycarbonylamino)ethyl)cyclohexyl)acetate (1.63 mmol), di-tert-butyldicarbonate (0.44 g, 1.96 mmol) and TEA (2.27 mL, 16.3 mmol) in DCM (15 mL) was stirred at RT overnight. The reaction was quenched by addition of saturated NH4Cl solution and separated. The organic phase was washed with 0.5N HCl, brine, and dried over Na2SO4. Purification by flash column chromatography (eluent: 20% EtOAc in hexanes to 30%) gave the product as colorless oil (0.58 g, 83%). LC/MC: 451.1 (MNa)+.

reactant | ethyl 2-(trans-4-(2-amino-1-(tert-butoxycarbonylamino)ethyl)cyclohexyl)acetate | 1.63 mmol | NCC(NC(=O)OC(C)(C)C)[C@@H]1CC[C@H](CC1)CC(=O)OCC | C17H32N2O4
reactant | di-tert-butyldicarbonate | 1.96 mmol, 0.44 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-(trans-4-(2,2,11,11-tetramethyl-4,9-dioxo-3,10-dioxa-5,8-diazadodecan-6-yl)cyclohexyl)acetate | 0.58 g, 83% | CC(C)(OC(NC(CNC(OC(C)(C)C)=O)[C@@H]1CC[C@H](CC1)CC(=O)OCC)=O)C | C22H40N2O6
